US08791107B2
1-(4-(5-(1-(4-chlorophenyl)cyclopropyl)-6-oxo-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridin-2-yl)phenyl)-3-methylurea
The title compound was prepared in a manner similar to EXAMPLE 84 using 2-chloro-5-(1-(4-chlorophenyl)cyclopropyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one (PREPARATION x36, 100 mg, 0.256 mmol), 1-methyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea (141 mg, 0.511 mmol), and PdCl2(dppf) (18.70 mg, 0.026 mmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). 1H NMR (400 MHz, DMSO-d6) δ 1.10-1.24 (m, 2H), 1.46-1.60 (m, 2H), 2.54-2.60 (d, 3H), 2.84-3.03 (m, 1H), 3.46-3.57 (m, 2H), 3.91-4.00 (m, 1H), 4.08-4.20 (m, 1H), 4.33-4.55 (m, 2H), 5.98-6.07 (m, 1H), 7.01-7.17 (m, 2H), 7.23-7.34 (m, 2H), 7.36-7.46 (m, 2H), 7.68-7.73 (m, 1H), 8.02-8.13 (m, 2H), 8.61-8.70 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C26H25ClN6O3, 505.17. found 505.4.

reactant | 2-chloro-5-(1-(4-chlorophenyl)cyclopropyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 0.256 mmol, 100 mg | ClC1=NC=2N3C(C(N(C2C=N1)C1(CC1)C1=CC=C(C=C1)Cl)=O)COCC3 | C18H16Cl2N4O2
reactant | 1-methyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea | 0.511 mmol, 141 mg | CNC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 0.026 mmol, 18.70 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(4-(5-(1-(4-chlorophenyl)cyclopropyl)-6-oxo-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridin-2-yl)phenyl)-3-methylurea | ClC1=CC=C(C=C1)C1(CC1)N1C=2C=NC(=NC2N2C(C1=O)COCC2)C2=CC=C(C=C2)NC(=O)NC | C26H25ClN6O3
